US06352993B1
5,6-dimethyl-2-phenylethylamino4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After phenethylamine(0.34 ml, 2.7 mmol) and triethylamine(0.38 ml, 2.7 mmol) were added to a solution of 2-chloro-5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl) pyrimidine(0.5 g, 1.8 mmol) in dimethylformamide, 600 mg of the titled compound was obtained in accordance with the same procedure as in Example 1.

reactant | phenethylamine | 2.7 mmol, 0.34 ml | C(CC1=CC=CC=C1)N | C8H11N
reactant | triethylamine | 2.7 mmol, 0.38 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl) pyrimidine | 1.8 mmol, 0.5 g | ClC1=NC(=C(C(=N1)N1CC2=CC=CC=C2CC1)C)C | C15H16ClN3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-phenylethylamino4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 600 mg, Yield: 84.4% | Cl.CC=1C(=NC(=NC1C)NCCC1=CC=CC=C1)N1CC2=CC=CC=C2CC1 | InChI=1S/C23H26N4.ClH/c1-17-18(2)25-23(24-14-12-19-8-4-3-5-9-19)26-22(17)27-15-13-20-10-6-7-11-21(20)16-27;/h3-11H,12-16H2,1-2H3,(H,24,25,26);1H
